US05308854
Step A: Preparation of 2-methoxy-3-(aminomethyl)-5-ethyl-6-methylpyridine
A solution of 2-methoxy-3-cyano-5-ethyl-6-methylpyridine (344 mg, 1.95 mmol) in methanol (8 mL) and 4.9M methanolic HCl (5 mL) containing 5% palladium on carbon (100 mg) was hydrogenated at atmospheric pressure for 10-20 hours. The catalyst was filtered off and the solvent evaporated. This residue was made basic with sodium hydroxide and the product was extracted into methylene chloride, dried (Na2SO4), filtered and evaporated to give 313 mg (89% yield) of oily product.

reactant | 2-methoxy-3-cyano-5-ethyl-6-methylpyridine | 1.95 mmol, 344 mg | COC1=NC(=C(C=C1C#N)CC)C | C10H12N2O
solvent | methanol | 8 mL | CO | CH4O
solvent | HCl | 4.9M, 5 mL | Cl | ClH
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 2-methoxy-3-(aminomethyl)-5-ethyl-6-methylpyridine | 313 mg, 89% yield | COC1=NC(=C(C=C1CN)CC)C | C10H16N2O
